US08975400B2
5-(Hydroxymethyl)-2-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzonitrile
To a solution of 3-cyano-4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoic acid methyl ester (23 g, 0.070 mol) in anhydrous THF (200 mL) was added portionwise LiAH4 (4.07 g, 0.11 mmol) at −78° C. The reaction mixture was warmed to −55° C. slowly and stirred for 20 mins, diluted with water (3 mL 0.16 mmol, slow addition), filtered and concentrated. Purification via column chromatography on silica gel (petroleum ether/ethyl acetate=10/1 to 5/1) afforded the title product (12.5 g) as a colorless oil.

reactant | 3-cyano-4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoic acid methyl ester | 0.070 mol, 23 g | COC(C1=CC(=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)C#N)=O | C15H9F3N2O3
reactant | water | 0.16 mmol, 3 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-(Hydroxymethyl)-2-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzonitrile | 12.5 g | OCC=1C=CC(=C(C#N)C1)OC1=NC=C(C=C1)C(F)(F)F | C14H9F3N2O2
